US06916839B2
Preparation of 4-ethenyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole
10.0 g (41.2 mmol) of 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole, 92.4 mg (0.41 mmol) of palladium acetate and 302 mg (0.82 mmol) of tetra-n-butylammonium bromide are weighed into the glass insert of an autoclave together with 366 mg (1.65 mmol) of di(tert-butyl)phenylphosphine, 8.84 g (45.3 mmol) of dicyclohexylmethylamine and dimethylacetamide (34.3 ml), and placed under a protective gas atmosphere. Subsequently, 30 bar of ethylene are injected at 20° C. and the reaction mixture is stirred at 130° C. for 30 h. After the end of the reaction, the mixture is cooled, poured onto cold dilute hydrochloric acid and extracted with CH2C12. The combined organic phases which have been dried over magnesium sulphate are concentrated. The product is obtained as a brown oil in an 83% yield.

reactant | 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 41.2 mmol, 10.0 g | BrC=1C(=NN(C1C)C)C(F)(F)F | C6H6BrF3N2
reactant | di(tert-butyl)phenylphosphine | 1.65 mmol, 366 mg | C(C)(C)(C)P(C1=CC=CC=C1)C(C)(C)C | C14H23P
reactant | dicyclohexylmethylamine | 45.3 mmol, 8.84 g | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
reactant | ethylene | C=C | C2H4
reactant | hydrochloric acid | Cl | ClH
catalyst | tetra-n-butylammonium bromide | 0.82 mmol, 302 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.41 mmol, 92.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylacetamide | 34.3 ml | CC(=O)N(C)C | C4H9NO
product | 4-ethenyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 83% yield | C(=C)C=1C(=NN(C1C)C)C(F)(F)F | C8H9F3N2
